US06002008
4-(3-Hydroxy-4-methoxy-phenylamino)-8-methoxy-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 274. A reaction mixture of 200.0 mg (0.92 mmol) of 4-chloro-8-methoxy-3-quinolinecarbonitrile, 105.7 mg (0.92 mmol) of pyridine hydrochloride and 140.6 mg (1.0 mmol) of 5-amino-2-methoxyphenol in 10 mL of 2-ethoxyethanol was heated at 100° C. for 2 hr. The work up gave 261.6 mg (89.0%) of the product as a deep yellow solid, m.p. 138-140° C. (dec.), mass spectrum (electrospray, m/e): M+H 321.9.

reactant | 4-chloro-8-methoxy-3-quinolinecarbonitrile | 0.92 mmol, 200.0 mg | ClC1=C(C=NC2=C(C=CC=C12)OC)C#N | C11H7ClN2O
reactant | pyridine hydrochloride | 0.92 mmol, 105.7 mg | Cl.N1=CC=CC=C1
reactant | 5-amino-2-methoxyphenol | 1.0 mmol, 140.6 mg | NC=1C=CC(=C(C1)O)OC | C7H9NO2
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | 4-(3-Hydroxy-4-methoxy-phenylamino)-8-methoxy-quinoline-3-carbonitrile | OC=1C=C(C=CC1OC)NC1=C(C=NC2=C(C=CC=C12)OC)C#N | C18H15N3O3
